US06897231B2
A. (5-[3-(4-Fluorophenyl)(1H-indazol-5-yl)](1H-1,2,4-triazol-3-yl))(phenylmethoxy)methane
To a suspension of ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine.2HCl (307 mg, 0.96 mmol) and N-amino-2-(phenylmethoxy)acetamide (259 mg, 1.44 mmol) in anhydrous methanol (3.0 mL) in a screw-top pressure tube was added freshly prepared sodium methoxide (615 μL of a 3.12 M solution in methanol). The tube was sealed and heated in a 90° C. oil bath for 17 h. The reaction was cooled, evaporated to dryness and partitioned between ethyl acetate and satd. NH4Cl. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo to give an oily brown residue. Purification by flash chromatography on silica gel eluting with 5% methanol in dichloromethane (Rf=0.43) gave a pale solid (155 mg) which was re-chromatographed using 30% hexanes in ethyl acetate to remove traces of color.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine | C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C16H14FN3O
reactant | N-amino-2-(phenylmethoxy)acetamide | 1.44 mmol, 259 mg | NNC(COCC1=CC=CC=C1)=O | C9H12N2O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 3.0 mL | CO | CH4O
product | (5-[3-(4-Fluorophenyl)(1H-indazol-5-yl)](1H-1,2,4-triazol-3-yl))(phenylmethoxy)methane | 155 mg | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C1=NC(=NN1)COCC1=CC=CC=C1 | C23H18FN5O
